US05889012
4-(1-Methylcyclohexyl)cyclohexanone
A solution of 23 g of sodium dichromate in a mixture of 19 ml of concentrated sulfuric acid and 65 ml of water was added dropwise at from 15° to 20° C. to a solution of from 45.8 g (0.23 mol) of 4-(1-methylcyclohexyl)cyclohexanol in 900 ml of acetone. The mixture was stirred at room temperature for one hour, 150 ml of isopropanol were added, stirring was continued for 15 minutes, and the inorganic material was filtered off with suction. The filtrate was brought to a pH of from 6.5 to 7 with solid sodium bicarbonate and then the mixture was filtered again. The filtrate was concentrated, the residue was taken up in toluene/water, and the organic phase was dried and concentrated.

reactant | sodium dichromate | 23 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | 4-(1-methylcyclohexyl)cyclohexanol | 0.23 mol, 45.8 g | CC1(CCCCC1)C1CCC(CC1)O | C13H24O
reactant | isopropanol | 150 ml | C(C)(C)O | C3H8O
solvent | sulfuric acid | 19 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 65 ml | O | H2O
solvent | acetone | 900 ml | CC(=O)C | C3H6O
product | 4-(1-Methylcyclohexyl)cyclohexanone | CC1(CCCCC1)C1CCC(CC1)=O | C13H22O
